US07250410B2
2-[(8-ethoxy-7-methoxy-1-methyl-2-oxo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepin-3-yl)methyl]benzonitrile, IIdg.
By replacing 1-ethyl-7,8-dimethoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one (IIbd) in example IIbh by 8-ethoxy-7-methoxy-1-methyl-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one (IIda), and 2-nitrobenzyl bromide by 2-bromomethyl-benzonitrile, and proceeding in the same manner, the abovenamed product is obtained. Yield: 58%. M: 238–240° C. 1H-NMR (CDCl3, 200 MHz): d 1.53 (s, 3H, CH3), 3.40 (s, 3H, NCH3), 3.71 (s, 3H, OCH3), 3.78–3.90 (m, 3H, —CH2Ph+CH), 4.17 (q, 2H, CH2), 6.64 (s, 1H Ar), 6.76 (s, 1H Ar), 7.31–7.78 (m, 9H Ar).

reactant | 8-ethoxy-7-methoxy-1-methyl-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | C(C)OC1=CC2=C(C(=NCC(N2C)=O)C2=CC=CC=C2)C=C1OC | C19H20N2O3
reactant | 2-nitrobenzyl bromide | [N+](=O)([O-])C1=C(CBr)C=CC=C1 | C7H6BrNO2
reactant | 2-bromomethyl-benzonitrile | BrCC1=C(C#N)C=CC=C1 | C8H6BrN
product | 2-[(8-ethoxy-7-methoxy-1-methyl-2-oxo-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepin-3-yl)methyl]benzonitrile | Yield: 58% | C(C)OC1=CC2=C(C(=NC(C(N2C)=O)CC2=C(C#N)C=CC=C2)C2=CC=CC=C2)C=C1OC | C27H25N3O3
